US08334236B2
(3) Production of ethyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
2.2 g (10 mmol) of ethyl 2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate was dissolved in a mixed solvent of N,N-dimethylformamide (50 mL) and 1,2-dimethoxyethane (15 mL), and under a nitrogen gas stream, 0.45 g (11 mmol) of 60% sodium hydride (oily) was added thereto at room temperature. The mixture was further stirred for 30 minutes at room temperature. 3.5 g (40 mmol) of lithium bromide was added to the above mixture under ice cooling, and the resulting mixture was stirred for 30 minutes at room temperature. 3.9 g (27.5 mmol) of iodomethane was further added to the mixture at room temperature, and the resulting mixture was stirred for 6 hours at 60° C. The reaction mixture was poured into an aqueous solution of citric acid, and the mixture was extracted with ethyl acetate. The organic phase was washed with brine, an aqueous solution of sodium hydrogen carbonate, and brine in this order, and was dried and concentrated. The residue was washed with diisopropyl ether, and thus 1.66 g (yield: 71%) of the title compound was obtained as a light purple solid.

reactant | ethyl 2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 10 mmol, 2.2 g | O=C1NC2=NC=CC=C2C=C1C(=O)OCC | C11H10N2O3
reactant | sodium hydride | 11 mmol, 0.45 g | [H-].[Na+]
reactant | lithium bromide | 40 mmol, 3.5 g | [Br-].[Li+]
reactant | iodomethane | 27.5 mmol, 3.9 g | IC | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
product | ethyl 1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 1.66 g, yield: 71% | CN1C(C(=CC2=CC=CN=C12)C(=O)OCC)=O | C12H12N2O3
